US08685969B2
10. Benzyl 3-(2-amino-1-(6-(2-methoxyethoxy)-1H-indol-3-yl)ethyl)-2-fluorophenylcarbamate
To a solution of benzyl 2-fluoro-3-(1-(6-(2-methoxyethoxy)-1H-indol-3-yl)-2-nitroethyl)phenylcarbamate (3.75 g, 7.39 mmol) and ammonium chloride (5.93 g, 111 mmol) in methanol (148 mL) and tetrahydrofuran (148 mL) under nitrogen was added zinc (7.25 g, 111 mmol). After 3 hr, the reaction was filtered through a pad of CELITE®, rinsed with EtOAc and MeOH. The filtrate was concentrated in vacuo. Water (40 mL) was added followed by saturated aq. NaHCO3 (to pH ˜11 by litmus paper) and extracted with EtOAc (4×50 mL). The organic layers were combined, washed with brine (40 mL), dried over MgSO4, and concentrated in vacuo to give the desired product (3.523 g, 6.35 mmol, 86% yield) as a light tan solid.

reactant | benzyl 2-fluoro-3-(1-(6-(2-methoxyethoxy)-1H-indol-3-yl)-2-nitroethyl)phenylcarbamate | 7.39 mmol, 3.75 g | FC1=C(C=CC=C1C(C[N+](=O)[O-])C1=CNC2=CC(=CC=C12)OCCOC)NC(OCC1=CC=CC=C1)=O | C27H26FN3O6
reactant | ammonium chloride | 111 mmol, 5.93 g | [Cl-].[NH4+]
solvent | methanol | 148 mL | CO | CH4O
solvent | tetrahydrofuran | 148 mL | O1CCCC1 | C4H8O
catalyst | zinc | 111 mmol, 7.25 g | [Zn] | Zn
product | Benzyl 3-(2-amino-1-(6-(2-methoxyethoxy)-1H-indol-3-yl)ethyl)-2-fluorophenylcarbamate | 6.35 mmol, 3.523 g, 86% yield | NCC(C1=CNC2=CC(=CC=C12)OCCOC)C=1C(=C(C=CC1)NC(OCC1=CC=CC=C1)=O)F | C27H28FN3O4
